Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever, headaches, fatigue
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ with h/o gastric GIST s/p partial gastrectomy, hernia 
repair,
PUD, who presents with fatigue, diaphoresis and fever. 

The pt reports that on ___, about 3 days prior to admission,
she started experiencing a "heavy" sensation, with intermittent
headache and diaphoresis. These symptoms continued over the next
several days with associated loss of appetite. He did not try 
any
therapies to relieve his headache. Notably, he denied having any
CP, SOB, cough, fevers, n/v, changes in vision, abdominal pain,
back pain, or issues with urination or bowel movements. 

Regarding routine cancer screening, per pt report, the pt's last
colonoscopy was this year with no issues. 

In the ED, initial vitals were T 97.5, HR 77, BP 125/71, RR 16,
O2 100% on RA, however  he later spiked a fever to 103.1 w/
otherwise stable VS.

Exam was unremarkable. Labs were revealing for normal WBC,
chemistries, LFTs, and lactate, however white count differential
showed a monocytosis. Troponins were also found to be mildly
elevated and rising to peak of 0.03. Flu swab was negative and 
UA
was not suggestive of infection (3 WBC, few bacteria). Blood and
urine cultures were sent which were pending by time of 
admission;
an LP was deferred.

Imaging was notable for a CXR w/o definite consolidation and a 
CT
head w/o acute intracranial abnormalities. An EKG showed NSR 
with
flattened T waves in limb leads and lateral leads, but was
otherwise wnl.

Pt was given:  
- 1L LR
- 1gm APAP

Vitals prior to transfer:  99.7, 82, 119/70, 16, 99% RA

Upon arrival to the floor, the patient reports feeling well
without complaints. He reports having subjective fevers with
diaphoresis at home for the past 3 days, and overall felt tired
and "not himself." He describes a mild left-sided HA that lasted
for a few minutes the day of presentation and then resolved; no
associated symptoms. Reports some dizziness when he gets up too
fast. No CP, SOB, cough, ST, N/V, abd pain, diarrhea,
constipation, melena, hematochezia, dysuria, ___, joint
aches, muscle pains. 

 
Past Medical History:
Gastric GIST (medical oncology note ___ Partners records,
Dr. ___: 
"Mr. ___ was first diagnosed with gastric GIST in ___ after
several episodes of bleeding gastric ulcers, he presented to ___
with melena and syncome.  EGD was performed on ___ that
showed two intramural gastric tumors with bleeding.  Biopsy
showed a possible GIST, so the next day, on ___, he was
taken to the OR and underwent a partial gastrectomy.  This 
showed
two GISTs; an epithelioid GIST measuring 4.5cm in the distal 
body
and a spindle cell GIST measuring 2.2 cm in the proximal body of
the stomach.  Both were low grade, showing 1 and 2 mitosis per 
50
HPFs, respectively."  
- Dr. ___ at ___ was ___ 

- PUD
- umbilical hernia repair as a child
 
Social History:
___
Family History:
Per partners char and confirmed w patient: 
Father: deceased at age ___ from ___; PMH of HTN
Mother: deceased at age ___ PMH of arterial sclerosis, heart
disease
Siblings: 1 brother and 3 sisters - no major health problems
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS:  98.2PO, 115 / 73, 73,   93  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, protuberant umbilical hernia without
incarceration, nontender to palpation throughout 
GU: No foley  
Ext: Warm, well perfused, no ___  
___: Warm, dry, no rashes or notable lesions.  
Neuro: no facial droop, ___ strength upper/lower extremities,
grossly normal sensation, steady gait 

DISCHARGE PHYSICAL EXAM
========================
VITALS: BP 100s-110s/60s HR ___ RR 18 SpO2 96% on RA
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, protuberant umbilical hernia without
incarceration, nontender to palpation throughout 
GU: No foley  
Ext: Warm, well perfused, no ___  
___: Warm, dry, no rashes or notable lesions.  
Neuro: no facial droop, ___ strength upper/lower extremities,
grossly normal sensation, steady gait 
 
Pertinent Results:
ADMISSION LABS
==============
___ 08:21AM BLOOD WBC-7.8 RBC-4.80 Hgb-13.1* Hct-41.3 
MCV-86 MCH-27.3 MCHC-31.7* RDW-13.4 RDWSD-41.9 Plt ___
___ 08:21AM BLOOD Glucose-105* UreaN-15 Creat-1.0 Na-137 
K-4.1 Cl-101 HCO3-23 AnGap-13
___ 08:21AM BLOOD ALT-25 AST-29 AlkPhos-48 TotBili-0.7
___ 08:21AM BLOOD cTropnT-<0.01
___ 08:25AM BLOOD Lactate-1.2

DISCHARGE LABS
==============
___ 05:50AM BLOOD WBC-6.1 RBC-4.74 Hgb-13.2* Hct-40.5 
MCV-85 MCH-27.8 MCHC-32.6 RDW-13.3 RDWSD-41.6 Plt ___
___ 05:50AM BLOOD Neuts-35.3 ___ Monos-21.3* 
Eos-3.6 Baso-0.7 Im ___ AbsNeut-2.16 AbsLymp-2.37 
AbsMono-1.30* AbsEos-0.22 AbsBaso-0.04
___ 05:50AM BLOOD Glucose-124* UreaN-13 Creat-0.9 Na-143 
K-4.9 Cl-104 HCO3-25 AnGap-14
___ 04:45AM BLOOD CK-MB-2 cTropnT-0.02*
___ 05:52PM BLOOD ___ SPOTTED FEVER AB IGG, 
IGM-PND
___ 05:52PM BLOOD ANAPLASMA PHAGOCYTOPHILUM (HUMAN 
GRANULOCYTIC EHRLICHIA AGENT) IGG/IGM-PND
 
Brief Hospital Course:
Mr. ___ is a ___ y/o male with a history of gastric GIST s/p 
partial gastrectomy, hernia repair, and PUD who presented with 
fatigue, diaphoresis, headache, and fever, concerning for 
infection from unclear etiology. Work up was unremarkable as 
below. He was monitored for 48 hours without recurrent fevers or 
symptoms. Ultimately discharged with plan for close follow up. 

ACUTE ISSUES
=============
#. Fever
Patient was found to be febrile to 103.1 in the ED. However, he 
had no subsequent fevers after this and he remained 
hemodynamically stable. An extensive infectious work-up was 
started and unremarkable, including CXR, UA/culture, flu swab, 
parasite smear, and lyme serology. At time of discharge, Bcx, 
ehrlichia IgG and IgM, and ___ Spotted Fever IgG and 
IGM, were still pending. He will follow up with a primary care 
provider for further work up. 

#. Monocytosis
Patient had monocytosis without a leukocytosis on admission. No 
prior labs to suggest chronicity. Very non-specific finding, and 
given patient had no other abnormalities or concerning findings, 
further specific work-up did not feel warranted. Monocytosis was 
improving by time of discharge. 

#. Elevated Troponin
Troponin mildly elevated, peaking at .03. EKG without any clear 
evidence of ischemia, and patient had no specific symptoms to 
suggest ACS. 

#. Pre-diabetes
Hgb A1c 6.2, unclear prior baseline. Recommended outpatient 
follow for consideration of metformin initiation. 

CHRONIC ISSUES
================
#. Normocytic Anemia
Patient was close to baseline at time of presentation. CBC 
remained stable throughout hospitalization. 

TRANSITIONAL ISSUES:
=====================

[ ] Pending at discharge: blood cultures, Ehrlichia IgG and IgM, 
and ___ Spotted Fever IgG and IgM. Inpatient team 
will follow up.

[ ] Has not been following with a PCP and will need some 
preventative care: 
- needs colonoscopy
- Based on lipid panel, ___ year CVD risk at least 7.6%. Consider 
starting a statin
- Patient has HgbA1c of 6.2%; work on diet/exercise and could 
consider initiating metformin.

# Code status: presumed full 
# contact: ___ (daughter) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Primary
Fever
Monocytosis
Elevated Troponin
Normocytic Anemia 

#Secondary
Umbilical hernia
GIST s/p partial gastrectomy 
PUD 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  

It was a pleasure to care for you at the ___ 
___.  

Why did you come to the hospital?  
- You came to the hospital after being found to have significant 
fatigue, sweating, and fevers at home. When you came to the 
hospital, we found that you had a very high fever to 103.1. 

What did you receive in the hospital?  
- While in the hospital, we did an extensive work-up to look for 
possible infections. 
- Reassuringly, your work-up has come back negative thus far
- At time of discharge, there were still a few lab results 
pending, which are listed below.

What should you do once you leave the hospital?  
- Please continue to eat and drink appropriately.
- If you continue to have repeat fevers, or other symptoms that 
concern you, please return to the ED immediately.  

We wish you the best!  
Your ___ Care Team  
 
Followup Instructions:
___